US05444055
(E)-17β-(2-Guanidinoethoxyimino)methyl-5β-androstane-3β,14β-diol (I-ag)
A solution of 0.95 g of (E)-17β-(2-aminoethoxyimino)methyl-5β-androstane-3β,14β-diol (I-ab) and 1.05 g of 1-amidino-3,5-dimethylpyrazole nitrate in 20 ml of ethanol was heated at reflux for 10 hrs. The solution was evaporated to dryness under reduced pressure and the crude product was purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 78/20/2 as eluant; the fractions containing the title compound were collected and evaporated to dryness under reduced pressure. The residue was ground with di-iso-propyl ether/ethanol to give 0.38 g of the title compound (I-ag), as a nitrate, white solid.

reactant | (E)-17β-(2-aminoethoxyimino)methyl-5β-androstane-3β,14β-diol | 0.95 g | NCCO\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C22H38N2O3
reactant | 1-amidino-3,5-dimethylpyrazole nitrate | 1.05 g | [N+](=O)(O)[O-].C(N)(=N)N1N=C(C=C1C)C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (E)-17β-(2-Guanidinoethoxyimino)methyl-5β-androstane-3β,14β-diol | 0.38 g | N(C(=N)N)CCO\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C23H40N4O3
